US05591762
c) 4'-[(2-Ethyl-4-methyl-6-(1-methyl-5-fluoro-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid
A solution of 1.4 g (2.4 mMol) of tert.butyl 4'-[(2-ethyl-4-methyl-6-(1-methyl-5-fluoro-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate and 15 ml of trifluoroacetic acid in 30 ml of methylene chloride is stirred for 14 hours at ambient temperature, then concentrated by evaporation, the residue is mixed with about 30 ml of water and made alkaline with 2N sodium hydroxide solution. After extracting twice with 30 ml of diethyl ether, the aqueous phase is acidified with 20% citric acid. The crude product precipitated is suction filtered and purified by column chromatography (100 g silica gel; eluant: methylene chloride/ethanol=96:4).

reactant | tert.butyl 4'-[(2-ethyl-4-methyl-6-(1-methyl-5-fluoro-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | 2.4 mMol, 1.4 g | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C2=NC1=C(N2C)C=CC(=C1)F | C36H35FN4O2
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4'-[(2-Ethyl-4-methyl-6-(1-methyl-5-fluoro-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylic Acid | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C2=NC1=C(N2C)C=CC(=C1)F | C32H27FN4O2
